US05185339
Trimethylsilyl cyanide (12.42 g, 16.7 ml, 0.125 moles) was added dropwise to a solution of 2-p-chlorobenzyl-pyridine-N-oxide (11.0 g, 0.05 moles) and triethylamine (7.61 g, 10.5 ml, 0.075 moles) in acetronitrile (40 ml) at 20° C. After complete addition the mixture was heated under reflux for 48 hours, cooled to room temperature and partitioned between methylene chloride and saturated sodium bicarbonate. The organic layer was washed with water and saturated sodium chloride and dried over anhydrous magnesium sulphate. Removal of the solvent gave a brown oil which was purified by column chromatography (silica gel eluted with hexane:ethyl acetate 9:1) to give 2-p-chlorobenzyl-6-cyanopyridine (1.69 g, 15%) as a pale yellow oil.

reactant | Trimethylsilyl cyanide | 0.125 moles, 16.7 ml, 12.42 g | C[Si](C)(C)C#N | C4H9NSi
reactant | 2-p-chlorobenzyl-pyridine-N-oxide | 0.05 moles, 11.0 g | ClC1=CC=C(CC2=[N+](C=CC=C2)[O-])C=C1 | C12H10ClNO
reactant | triethylamine | 0.075 moles, 10.5 ml, 7.61 g | C(C)N(CC)CC | C6H15N
product | 2-p-chlorobenzyl-6-cyanopyridine | 1.69 g, 15% | ClC1=CC=C(CC2=NC(=CC=C2)C#N)C=C1 | C13H9ClN2
